Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Epzicom
 
Attending: ___.
 
Chief Complaint:
Bight red blood per rectum 
 
Major Surgical or Invasive Procedure:
___ colonoscopy 
___ IVC filter placement
 
History of Present Illness:
___ year old male with HIV, anal dysplasia, diverticulosis, RLE 
DVT and HTN who presents with bloody bowel movements. Two bloody 
BMs on ___ followed by ___ more episodes in the ED that filled 
up 3 bed pans. 

Of note, hospitalized at ___ from ___ to ___ for RLE 
swelling and was found to have extensive venous thrombosis of R 
light from common femoral to the peroneal veins. He endorsed 
chest discomfrt and was found to have lateral ST depression with 
negative troponins. An echo was unremarkable aside from mild RV 
dilation and mild global free wall hypokinesis. A CTA was 
negative for PE. He was started on a heparin gtt before 
transitioning to apixaban. During this hospitalization. 

Taken directly to ___ procedure, but they were unable to 
intervene upon the suspected vessel due to difficult anatomy. 
During the procedure there was no evidence of active bleed and 
he remained hemodynamically stable without more blood. 

He was intubated during the procedure and remained intubated 
upon arrival to the MICU. He was a very difficult intubation 
with an edematous airway and intubation required multiple 
attempts with different blades before success. 

In ED initial VS: T98.7, HR71, BP 153/93, RR 18, PaO2 100% RA

Exam:  

Labs significant for: Hb13.8 (initially), Plateletts 176, INR 
1.2, Chemistry Panel unremarkable 

Patient was given: Massive transition  7uPRBC, KCentra, Ca 
Gluconate, Zofran, NS, 

Consults: Surgery, ___ 

VS prior to transfer: T98.0, HR 67, BP 117/71, RR 18, SpO2 100% 
RA 

On arrival to the MICU, he remained intubated, an OG tube was 
placed. He was sedated with propofol and fentayl.  

 
Past Medical History:
HIV ___ last CD4   359 VL: undetected
ANAL DYSPLASIA                                                  
PERIPHERAL NEUROPATHY                                           
ORAL HERPES                                                     
DIVERTICULOSIS                                                  
OBSTRUCTIVE SLEEP APNEA                                         
DEPRESSION                                                      
PERIANAL BOWEN'S DISEASE   
BENIGN ESSENTIAL TREMOR                                     
PLANTAR FASCIITIS                                               
SINUSITIS                                                       
BRONCHITIS 
LOW BACK PAIN  
B/L HIP OA            
HX TREATED CHLAMYIDA                                      

SURGICAL HISTORY:  
H/O CERVICAL LAMINECTOMY                                        
H/O TONSILLECTOMY & ADENOIDECTOMY                               
H/O ORAL CANDIDIASIS 

 
Social History:
___
Family History:
Father deceased from prostate cancer; PGF also with metastatic 
prostate cancer
Mother deceased from CVA
4 sisters, 2 brothers with no known health issues
Nephew with esophageal cancer 

 
Physical Exam:
==============================
ADMISSION PHYSICAL EXAM
==============================
VITALS: BP 97/58, HR 76, RR 18, SPO2 97% 35% FiO2
GENERAL: Sedated, diaphoretic 
HEENT: Pupils 4mm bilaterally and reactive, sclera anicteric, 
endotracheal tube in place  
LUNGS: Anterior lung fields clear to auscultation   
CV: Distant S1/S2 regular with no murmurs or S3/S4 auscultated   

ABD: Large abdomen non-distended with positive bowel sounds. No 
bruising on abdomen.  
EXT: Warm lower extremities without lower extremity edema.  
SKIN: R groin access site with clean dressing and no evidence of 
bleed or bruising. Diaphoretic skin.
NEURO: RASS -4 

=============================
DISCHARGE PHYSICAL EXAM 
=============================
VS: 98.7 145 / 87 82 18 96 RA 
GENERAL: NAD, lying in bed
NECK: supple 
HEART: RRR, sinus rhythm, normal S1/S2, no murmurs
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
ABDOMEN: soft, obese, nontender to palpation 
EXT: 1+ pitting RLE edema to thigh, no LLE edema. RLE
overall increased in size compared to LLE. 
PULSES: 2+ at DP bilaterally 
SKIN: warm and well perfused

 
Pertinent Results:
========================
ADMISSION LABS:  
========================
___ 07:13PM BLOOD WBC-6.7 RBC-4.34* Hgb-13.7 Hct-41.8 
MCV-96 MCH-31.6 MCHC-32.8 RDW-16.0* RDWSD-57.0* Plt ___
___ 07:13PM BLOOD Neuts-48.3 ___ Monos-9.3 Eos-2.8 
Baso-1.3* Im ___ AbsNeut-3.23 AbsLymp-2.54 AbsMono-0.62 
AbsEos-0.19 AbsBaso-0.09*
___ 07:13PM BLOOD ___ PTT-31.9 ___
___ 11:05PM BLOOD ___ 07:13PM BLOOD Glucose-90 UreaN-18 Creat-1.2 Na-142 
K-4.7 Cl-106 HCO3-23 AnGap-13
___ 07:13PM BLOOD Calcium-9.6 Phos-3.6 Mg-2.0

========================
INTERVAL LABS: 
========================
___ 09:00PM BLOOD WBC-10.3*# RBC-3.95* Hgb-12.5* Hct-37.8* 
MCV-96 MCH-31.6 MCHC-33.1 RDW-15.5 RDWSD-53.7* Plt ___
___ 11:05PM BLOOD WBC-9.2 RBC-4.29* Hgb-13.3* Hct-39.7* 
MCV-93 MCH-31.0 MCHC-33.5 RDW-15.8* RDWSD-52.5* Plt ___
___ 03:27AM BLOOD WBC-7.5 RBC-4.03* Hgb-12.5* Hct-37.4* 
MCV-93 MCH-31.0 MCHC-33.4 RDW-16.7* RDWSD-55.0* Plt ___
___ 09:23AM BLOOD WBC-11.0* RBC-4.33* Hgb-13.4* Hct-39.6* 
MCV-92 MCH-30.9 MCHC-33.8 RDW-17.5* RDWSD-57.3* Plt ___
___ 02:05PM BLOOD WBC-9.8 RBC-4.09* Hgb-12.5* Hct-37.4* 
MCV-91 MCH-30.6 MCHC-33.4 RDW-17.5* RDWSD-57.9* Plt ___
___ 04:59PM BLOOD WBC-8.5 RBC-3.88* Hgb-11.8* Hct-35.5* 
MCV-92 MCH-30.4 MCHC-33.2 RDW-17.6* RDWSD-57.7* Plt ___
___ 08:29PM BLOOD WBC-7.8 RBC-3.87* Hgb-11.7* Hct-35.5* 
MCV-92 MCH-30.2 MCHC-33.0 RDW-17.7* RDWSD-58.3* Plt ___
___ 03:38AM BLOOD WBC-7.7 RBC-3.69* Hgb-11.3* Hct-34.0* 
MCV-92 MCH-30.6 MCHC-33.2 RDW-17.3* RDWSD-57.4* Plt ___
___ 10:12AM BLOOD WBC-6.6 RBC-3.48* Hgb-10.6* Hct-32.1* 
MCV-92 MCH-30.5 MCHC-33.0 RDW-17.2* RDWSD-57.7* Plt ___
___ 12:22AM BLOOD WBC-7.4 RBC-3.60* Hgb-10.9* Hct-33.6* 
MCV-93 MCH-30.3 MCHC-32.4 RDW-16.7* RDWSD-55.9* Plt ___
___ 06:20AM BLOOD WBC-6.4 RBC-3.49* Hgb-10.7* Hct-32.5* 
MCV-93 MCH-30.7 MCHC-32.9 RDW-17.1* RDWSD-56.2* Plt ___
___ 04:55PM BLOOD WBC-5.9 RBC-3.38* Hgb-10.4* Hct-31.7* 
MCV-94 MCH-30.8 MCHC-32.8 RDW-17.0* RDWSD-56.0* Plt ___
___ 05:56AM BLOOD WBC-5.5 RBC-3.18* Hgb-9.7* Hct-30.1* 
MCV-95 MCH-30.5 MCHC-32.2 RDW-16.6* RDWSD-56.4* Plt ___
___ 06:20AM BLOOD Lupus-NEG
___ 03:27AM BLOOD Glucose-120* UreaN-19 Creat-1.4* Na-141 
K-5.6* Cl-108 HCO3-20* AnGap-13
___ 02:05PM BLOOD Glucose-115* UreaN-27* Creat-1.8* Na-142 
K-5.2* Cl-108 HCO3-21* AnGap-13
___ 08:29PM BLOOD Glucose-104* UreaN-31* Creat-1.7* Na-141 
K-4.7 Cl-107 HCO3-21* AnGap-13
___ 03:38AM BLOOD Glucose-93 UreaN-32* Creat-1.5* Na-143 
K-4.7 Cl-107 HCO3-20* AnGap-16
___ 06:20AM BLOOD Glucose-109* UreaN-18 Creat-1.2 Na-150* 
K-4.0 Cl-114* HCO3-22 AnGap-14
___ 05:56AM BLOOD Glucose-94 UreaN-10 Creat-1.0 Na-146 
K-4.0 Cl-107 HCO3-26 AnGap-13
___ 03:27AM BLOOD ALT-13 AST-17 LD(LDH)-236 CK(CPK)-87 
AlkPhos-60 TotBili-0.5
___ 03:27AM BLOOD CK-MB-2 cTropnT-<0.01
___ 02:05PM BLOOD proBNP-96

Cardiolipin Antibodies: NEGATIVE 
Beta-2-Glycoprotein 1 Antibodies: NEGATIVE 

========================
DISCHARGE LABS: 
========================
___ 06:50AM BLOOD WBC-5.2 RBC-3.09* Hgb-9.5* Hct-29.1* 
MCV-94 MCH-30.7 MCHC-32.6 RDW-16.1* RDWSD-54.0* Plt ___
___ 06:50AM BLOOD Glucose-90 UreaN-12 Creat-1.0 Na-145 
K-3.7 Cl-108 HCO___ AnGap-14
___ 06:50AM BLOOD Calcium-8.6 Phos-3.2 Mg-1.7

========================
STUDIES: 
========================

___ IVC GRAM/FILTER ___ procedure)
FINDINGS:
1. Patent normal sized, non-duplicated IVC with single bilateral 
renal veins
and no evidence of a clot.
2. Successful deployment of an infra-renal retrievable IVC 
filter.

___ COLONOSCOPY 
Findings:
Excavated LesionsMultiple diverticula were seen in the entire 
colon. Diverticulosis appeared to be severe. There were no 
stigmata of bleeding. No blood was seen in the colon or examined 
terminal ileum. 
Impression:Diverticulosis of the entire colon
Otherwise normal colonoscopy to cecum and TI
Recommendations:No definitive source of bleeding localized. A 
diverticular source is likely, however.
Follow up with inpatient GI team.

___ ABDOMINAL AORTA ___ procedure) 
FINDINGS: 
Superior mesenteric venogram demonstrating the middle colic 
artery arising
approximately at a very acute angle.  No active extravasation of 
contrast is identified.
IMPRESSION: 
No active extravasation identified on superior mesenteric 
venogram though the vessel of interest based on CTA findings, 
the middle colic artery, was unable to be cannulated due to 
acute angulation at its origin and further
interrogation of this vessel could not be obtained.

___ CT A/P 
1. Focal active arterial extravasation into the transverse colon 
fed by a
branch from the SMA.
2. Asymmetric enlargement of the right common femoral vein with 
mild adjacent fatty stranding corresponds with known deep venous 
thrombosis as seen on recent ultrasound.  Similar appearance of 
the right external iliac vein which suggests involvement of this 
vein with thrombus as well.
3. Extensive diverticulosis without evidence of diverticulitis.

 
Brief Hospital Course:
====================
BRIEF SUMMARY 
====================

Mr. ___ is a ___ man with a history of HIV (last CD4 396, 
___ on raltegravir/Truvada, diverticulosis, recent 
hospitalization for extensive RLE DVT and started on apixaban, 
who presented with large bright red blood per rectum, with 
active extravasation seen from SMA at the transverse colon on 
CTA. Interventional radiology attempted but was unable to 
intervene given patient's vascular anatomy. He was transfused 8U 
pRBC. He went to the MICU initially for hemorrhagic shock 
requiring pressors, and was transferred to floor once 
stablizied. Colonoscopy showed diverticuli but no bleeding. IVC 
filter was placed. He was stable without evidence of further 
bleeding, so he was started on lower dose apixaban 5 BID by 
discharge. 

=======================
PROBLEM-BASED SUMMARY
=======================

ACUTE ISSUES: 

#Lower GI Bleed
#Hemorrhagic shock 
He had multiple episodes of bright red blood per rectum with 
hemoglobin 12.5 on admission, compared to 14.4 on last discharge 
on ___. Given massive BRBPR (filling 3 bedpans), he was 
transfused 8U pRBC. Likely etiology is diverticular bleed of 
transverse colon in setting of recent initiation of apixaban for 
DVT. CTA showed transverse colonic bleed of SMA branch. 
Interventional radiology attempted but was unable to intervene 
upon the suspected vessel due to difficult anatomy. During the 
procedure there was no evidence of active bleed and he remained 
hemodynamically stable without more blood. He was admitted to 
the MICU initially for hemorrhagic shock requiring pressor 
support. He was procedurally intubated for ___ and extubated ___ 
without issues. Home apixaban 10 BID was held. Colonoscopy was 
performed ___, which did not show bleeding but did show many 
diverticuli. IVC filter was placed ___. He was stable and 
transferred to the floor, where apixaban for DVT treatment was 
restarted at a lower dose 5 BID. 

#RLE DVT
He was diagnosed with extensive RLE DVT during his last 
admission, extending from common femoral to the peroneal veins. 
He was started on apixaban ___. He was planned for follow up 
with vascular surgery 3 months after discharge. As above, IVC 
filter was placed on ___ while patient was not on 
anticoagulation in the setting of massive lower GI bleed. He 
will need to follow up with ___ in 4 weeks for removal of IVC 
filter. Apixaban was restarted by discharge at lower dose of 5 
BID. Beta-2-Glycoprotein 1 Antibodies and Cardiolipin Antibodies 
were negative. He has follow up scheduled with Hematology in 
___ clinic. 

___ 
Creatinine peaked this admission at 1.8, compared to baseline of 
1.0. ___ felt to be likely prerenal from hypovolemia, as it 
resolved after fluid resuscitation and blood transfusions. Home 
acyclovir and quinapril were restarted once creatinine improved. 
Discharge creatinine was 1.0. 

CHRONIC ISSUES: 

#HIV: Diagnosed ___ with no history of AIDS defining illness. 
Regular follow up in ___ clinic, 100% compliance with meds. On 
Raltegravir 400mg PO BID and emtricitabine-tenofovir daily. Also 
takes dronabinol for appetite. 

#Hypertension: Home antihypertensives amlodipine and quinapril 
were restarted after patient stabilized and creatinine improved. 


#Soft tissues swelling: Soft tissue swelling was noted on 
___ on L lower back. Non painful. Ultrasound revealing 6cm 
deep fluid collection with echogenic debris. This was unlikely 
to be abscess given overall clinical presentation. 

#Oral HSV: Resumed home acyclovir once creatinine was improved 
by discharge. 

#Benign Essential Tremor: He was restarted on home propranolol 
60mg BID by discharge; initially held in setting of GIB. 

#GERD: Continued ranitidine 300mg daily (12 hours after HAART). 

#Allergies: Continued fluticasone nasal spray, fexofenadine 60mg 
daily. 

#Depression: Continued citalopram 40mg daily, mirtazaplin 45mg 
PO QHS, clonazepam 0.5mg BID.

#Skin Rash: Uses mupirocin, ketoconazole and silver sulfadiazine

#Testosterone replacement: On testosterone cypionate IM weekly. 
Transitional issue to discuss this with PCP as an outpatient. 
Consider potential contribution of testosterone to risk of 
clotting. 

=======================
TRANSITIONAL ISSUES: 
=======================
MEDICATION CHANGES:
- Decreased apixaban from 10 mg BID to 5 mg BID
- Held medications: calcium polycarbophil 500 mg, 
methylsulfonylmethane 1500 mg, multivit with min-FA-lycopene 
0.4-600 mg-mcg, somatropin, ubidecarenone-omega 3-vit E 
___ mg-mg-unit 

- Follow up repeat CBC, to be drawn on ___. 
- Needs to follow up with ___ 4 weeks from discharge for IVC 
filter removal. 
- Patient will require three months minimum of anticoagulation. 
Should have three month f/u ___ US with Dr. ___. 
- Consider further work up for hypercoagulability. Consider 
testosterone replacement therapy as potential trigger for DVT. 
- Apixaban has been restarted at a lower dose (5 BID) 
- Please monitor for recurrent GI bleeding.
- Consider cardiology referral given TTE with mild RV dilation 
with mild global hypokinesis 
- We have held a number of supplements on discharge, please 
readdress at ___ appointment whether he is appropriate to 
restart them: calcium polycarbophil 500 mg, 
methylsulfonylmethane 1500 mg, multivit with min-FA-lycopene 
0.4-600 mg-mcg, somatropin, ubidecarenone-omega 3-vit E 
___ mg-mg-unit 

___- ** Incidental finding ** : nodular right lower lobe 
consolidation measuring 1.6 x 1.3 cm, may represent resolving 
infection; a repeat chest CT should be obtained in 6 weeks to 
assess resolution.

# Communication: HCP: Sister ___ ___ (C)
# Code: Full (confirmed)
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Apixaban 10 mg PO BID 
2. Acyclovir 800 mg PO Q12H 
3. amLODIPine 2.5 mg PO DAILY 
4. Citalopram 40 mg PO DAILY 
5. ClonazePAM 0.5 mg PO BID 
6. emtricitabine-tenofovir alafen 200-25 mg oral DAILY 
7. Fexofenadine 60 mg PO DAILY 
8. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
9. Ketoconazole 2%  1 Appl TP BID 
10. Mirtazapine 45 mg PO QHS 
11. Mupirocin Ointment 2% 1 Appl TP BID 
12. Propranolol 60 mg PO BID 
13. Quinapril 40 mg PO BID 
14. Raltegravir 400 mg PO BID 
15. Ranitidine 300 mg PO DAILY 
16. Silver Sulfadiazine 1% Cream 1 Appl TP BID 
17. Vitamin D 5000 UNIT PO DAILY 
18. calcium polycarbophil 500 mg oral unknown 
19. Cyanocobalamin 1000 mcg IM/SC 1X/WEEK (MO) 
20. Dronabinol 10 mg PO TID:PRN poor appetite 
21. Fish Oil (Omega 3) ___ mg PO DAILY 
22. Glucosamine (glucosamine sulfate) 1500 mg oral DAILY 
23. melatonin 5 mg oral QHS 
24. methylsulfonylmethane 1500 mg oral DAILY 
25. multivit with min-FA-lycopene 0.4-600 mg-mcg oral DAILY 
26. somatropin unknown  subcutaneous Frequency is Unknown 
27. ubidecarenone-omega 3-vit E ___ mg-mg-unit oral DAILY 


 
Discharge Medications:
1.  Apixaban 5 mg PO BID 
RX *apixaban [Eliquis] 5 mg 1 tablet(s) by mouth twice daily 
Disp #*60 Tablet Refills:*0 
2.  Acyclovir 800 mg PO Q12H  
3.  amLODIPine 2.5 mg PO DAILY  
4.  Citalopram 40 mg PO DAILY  
5.  ClonazePAM 0.5 mg PO BID  
6.  Cyanocobalamin 1000 mcg IM/SC 1X/WEEK (MO)  
7.  Dronabinol 10 mg PO TID:PRN poor appetite  
8.  emtricitabine-tenofovir alafen 200-25 mg oral DAILY  
9.  Fexofenadine 60 mg PO DAILY  
10.  Fish Oil (Omega 3) ___ mg PO DAILY  
11.  Fluticasone Propionate NASAL 2 SPRY NU DAILY  
12.  Glucosamine (glucosamine sulfate) 1500 mg oral DAILY  
13.  Ketoconazole 2%  1 Appl TP BID  
14.  melatonin 5 mg oral QHS  
15.  Mirtazapine 45 mg PO QHS  
16.  Mupirocin Ointment 2% 1 Appl TP BID  
17.  Propranolol 60 mg PO BID  
18.  Quinapril 40 mg PO BID  
19.  Raltegravir 400 mg PO BID  
20.  Ranitidine 300 mg PO DAILY  
21.  Silver Sulfadiazine 1% Cream 1 Appl TP BID  
22.  Vitamin D 5000 UNIT PO DAILY  
23. HELD- calcium polycarbophil 500 mg oral unknown  This 
medication was held. Do not restart calcium polycarbophil until 
you discuss with your PCP. 
24. HELD- methylsulfonylmethane 1500 mg oral DAILY  This 
medication was held. Do not restart methylsulfonylmethane until 
you discuss with your PCP. 
25. HELD- multivit with min-FA-lycopene 0.4-600 mg-mcg oral 
DAILY  This medication was held. Do not restart multivit with 
min-FA-lycopene until you discuss with your PCP. 
26. HELD- somatropin unknown  subcutaneous Frequency is Unknown  
This medication was held. Do not restart somatropin until you 
discuss with your PCP. 
27. HELD- ubidecarenone-omega 3-vit E ___ mg-mg-unit oral 
DAILY  This medication was held. Do not restart 
ubidecarenone-omega 3-vit E until you discuss with your PCP. 
28.Outpatient Lab Work
K92.2 Gastrointestinal hemorrhage. LAB: CBC. DATE: ___. 
CONTACT INFO: ___. FAX: ___ . 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
=====================
PRIMARY DIAGNOSIS: 
=====================
GI bleed 
Diverticulosis 
Hemorrhagic shock 
Deep vein thrombosis 

======================
SECONDARY DIAGNOSIS: 
======================
Acute kidney injury 
HIV 
Hypertension 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure to care for you at ___ 
___. Please find detailed discharge instructions 
below: 

WHY WERE YOU ADMITTED TO THE HOSPITAL? 
- You were admitted because you were bleeding from your gut, and 
stooling large amounts of bright red blood. 

WHAT HAPPENED TO YOU IN THE HOSPITAL? 
- We suspect you were bleeding from "diverticuli", which are 
outpouchings of the large intestine. 
- You were transfused 8 units of blood. 
- We held your apixaban (your blood thinner) initially because 
of your bleeding. 
- Interventional radiology tried to fix the suspected bleeding 
vessel, but they were unable to do so because of your vascular 
anatomy. 
- You were intubated (tube into your lungs to help you breathe)  
for the interventional radiology procedure, but you were quickly 
successfully extubated (tube was removed). 
- You went to the medical ICU initially because of the volume of 
your bleeding. You were transferred to the floor once the 
bleeding slowed.
- You received a colonoscopy, which did not show any active 
bleeding, but did show many diverticuli. 
- You had an IVC filter placed, to prevent the blood clot in 
your legs from traveling up to your lungs, while you were not 
taking the apixaban. 
- You did well and did not have further bleeding, so you were 
able to restart the apixaban at a lower dose to treat your DVT. 

WHAT SHOULD YOU DO WHEN  YOU LEAVE THE HOSPITAL? 
- Please go to all your follow up appointments as scheduled. 
- Please take all your medications as prescribed. 
- Please be sure to follow up with interventional radiology for 
removal of the IVC filter in 4 weeks. They will reach out to you 
to schedule the filter removal. Their number is: ___. 
- Please get repeat bloodwork done on ___. 

We wish you the best! 
- Your ___ treatment team 
 
Followup Instructions:
___